US04353900
A solution of 3.5 g of 9-(2-phenylethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride salt in water (50 ml) was adjusted to pH 12 with ammonium hydroxide solution and extracted with methylene chloride. The methylene chloride was evaporated to afford 3 g of 9-(2-phenylethyl)-1-oxa-4,9-diazaspiro-[5.5]undecan-3-one as the free base, m.p. 140°-141° C.

reactant | 9-(2-phenylethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride salt | 3.5 g | Cl.C1(=CC=CC=C1)CCN1CCC2(CNC(CO2)=O)CC1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 50 ml | O | H2O
product | 9-(2-phenylethyl)-1-oxa-4,9-diazaspiro-[5.5]undecan-3-one | 3 g | C1(=CC=CC=C1)CCN1CCC2(CNC(CO2)=O)CC1 | C16H22N2O2
